US07786132B2
(i) 2-Phenyl-1-(thiophen-2-yl)ethanone
1-Bromobenzene (2 g, 12 mmol) in toluene (30 mL) was treated 1-(thiophen-2-yl)ethanone (1.8 g, 14.4 mmol), potassium bis(trimethylsilyl)amide (28.8 mL of 0.5 M solution in toluene, 14.4 mmol), 2,2′-bis(diphenyl)phosphino-1,1′-binaphthyl (racemic BINAP, 1.86 g, 3 mmol). The reaction was heated to 90° C. in an oil bath under a nitrogen atmosphere. After 4 h, the reaction was allowed to cool to room temperature and diluted with ethyl acetate (30 mL). The organic layer was washed with saturated aqueous sodium bicarbonate, water and brine. The organic layer was then dried with sodium sulfate, concentrated and purified by flash chromatography using a gradient of 10 to 40% ethyl acetate in hexanes to yield a yellow oil (1 g). MS (M+H)+ 203.

reactant | 1-Bromobenzene | 12 mmol, 2 g | BrC1=CC=CC=C1 | C6H5Br
reactant | 1-(thiophen-2-yl)ethanone | 14.4 mmol, 1.8 g | S1C(=CC=C1)C(C)=O | C6H6OS
reactant | potassium bis(trimethylsilyl)amide | 14.4 mmol, 0.5 M, 28.8 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 2,2′-bis(diphenyl)phosphino-1,1′-binaphthyl | 3 mmol, 1.86 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 2-Phenyl-1-(thiophen-2-yl)ethanone | 1 g | C1(=CC=CC=C1)CC(=O)C=1SC=CC1 | C12H10OS
